*                IN  OUT
*                 |    |
.subckt sbau383a  1    2

R1 1 2 50
.include ../sbomc43/buf802.lib
xbuf802 IN+ OUT VCC2  VEE2 VCH VCL In_Bias In_Aux 0 BUF802
* * xbuf802 2 11 1 5,8 15 14 3 4 17 BUF802
* 
* connections to VIN #2
R26 IN+ 5001 1.0e6
C43 5001 0 2.2e-6
C44 IN+ 1 100.0e-9
R29 1 0 50.0
* 
* * connections to P1 P2 P3
* Vp VCC2  0 6
* Vm VEE2  0 -6
* * L2 VCC  VCC2 1000
* * L3 VEE  VEE2 1000
* C20 VCC2  0 10.0e-6
* C21 VCC2  0 1.0e-6
* C29 VEE2 0 10.0e-6
* C30 VEE2 0 1.0e-6
* 
* RP1 VCC2  5001 5.0e3
* RP2 5001 VEE2 5.0e3
* 
* * connections to RBIAS
* 
* * connections to VCH
* R22 VCC2  VCH 0
* C31 VCH 0 0.1e-6
* C32 VCH 0 1.0e-6
* C33 VCH 0 10.0e-6
* 
* * connections to VCL
* R23 VCC2  VCL 0
* C40 VCL 0 100.0e-9
* C41 VCL 0 1.0e-6
* C42 VCL 0 10.0e-6
* 
* * connections to OUT
* R24 OUT 27 64.9
* R27 27 0 75.0
* R25 27 2 15.0
* 
* * connections to VEE
* C22 VEE2 0 0.1e-6
* C23 VEE2 0 1.0e-6
* C24 VEE2 0 1.0e-6
* C25 VEE2 0 0.1e-6
* C26 VEE2 0 1.0e-6
* C27 VEE2 0 0.1e-6
* C28 VEE2 0 1.0e-6
* 
* * connections to VCC
* C34 VCC2  0 0.1e-6
* C35 VCC2  0 1.0e-6
* C36 VCC2  0 1.0e-6
* C37 VCC2  0 0.1e-6
* C38 VCC2  0 1.0e-6
* C39 VCC2  0 1.0e-6
*  
* * connections to PAD - grounded

.ends